US05194442
7-Formyl-5-hydroxy-2,3,4,5-tetrahydro-1-benzoxepin
254 ml (0.6 mole) of a 1.7 molar solution of tert.-butyllithium in n-pentane is slowly added dropwise under argon to a stirred solution of 48.6 g (0.2 mole) of 7-bromo-5-hydroxy-2,3,4,5-tetrahydro-1-benzoxepin in 550 ml of absolute THF at -90° C. to -100° C. The mixture is subsequently stirred at -78° C. for 1 hour and then, at this temperature, a solution of 24 ml (0.24 mole) of N-formylmorpholine in 180 ml of absolute THF is added dropwise while stirring vigorously. The mixture is stirred at -78° C. for 1 hour and subsequently allowed to warm to 0° C., and is diluted with diethyl ether and hydrolyzed with ice-water. After extraction several times with diethyl ether, the combined organic extracts are washed with water and saturated brine and dried over sodium sulfate, and the solvent is stripped off in vacuo. 40.7 g of yellowish oil are obtained and reacted further without purification.

reactant | tert.-butyllithium | C(C)(C)(C)[Li]
reactant | 7-bromo-5-hydroxy-2,3,4,5-tetrahydro-1-benzoxepin | 0.2 mole, 48.6 g | BrC=1C=CC2=C(C(CCCO2)O)C1 | C10H11BrO2
reactant | N-formylmorpholine | 0.24 mole, 24 ml | C(=O)N1CCOCC1 | C5H9NO2
solvent | n-pentane | CCCCC | C5H12
solvent | THF | 550 ml | C1CCOC1 | C4H8O
solvent | THF | 180 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 7-Formyl-5-hydroxy-2,3,4,5-tetrahydro-1-benzoxepin | 40.7 g | C(=O)C=1C=CC2=C(C(CCCO2)O)C1 | C11H12O3
